US06743608B2
Hexyl (2RS) 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoate
The ester can be prepared by acid catalysed esterification of 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoic acid with/in 1-hexanol. Isocratic HPLC method 2 (8.57 min.): 92.2%.

reactant | 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)O)OCC | C18H20O4
solvent | 1-hexanol | C(CCCCC)O | C6H14O
product | Hexyl (2RS) 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCCCCCC)OCC | C24H32O4
